US06946554B2
2-Dimethoxymethyl-3-(3-pyridyl)acrylonitrile hydrate (4:1)
Pyridine-3-carboxaldehyde (80.25 g, 0.75 mol) and 3,3-dimethoxypropionitrile (115.1 g, 1.0 mol) were mixed together and added to a solution of sodium methoxide (54.0 g, 1.0 mol) in methanol (400 mL) over a period of 15 minutes. The mixture was stirred at room temperature overnight. Most of the methanol was evaporated in vacuo and the residue was partitioned between ethyl acetate (500 mL) and water (450 mL). The organic layer was separated, washed with brine (400 mL), dried (MgSO4) and the solvent evaporated in vacuo. The residual oil was distilled in vacuo to give 80.3 g (52%) of the product as a colorless oil, bp 130-140° C. (2 mm Hg).

reactant | Pyridine-3-carboxaldehyde | 0.75 mol, 80.25 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | 3,3-dimethoxypropionitrile | 1.0 mol, 115.1 g | COC(CC#N)OC | C5H9NO2
reactant | sodium methoxide | 1.0 mol, 54.0 g | C[O-].[Na+]
solvent | methanol | 400 mL | CO | CH4O
product | 2-Dimethoxymethyl-3-(3-pyridyl)acrylonitrile hydrate | 80.3 g, 52% | O.COC(C(C#N)=CC=1C=NC=CC1)OC | InChI=1S/C11H12N2O2.H2O/c1-14-11(15-2)10(7-12)6-9-4-3-5-13-8-9;/h3-6,8,11H,1-2H3;1H2
